US07618975B2
(2-Chloro-quinazolin-4-yl)-(2-methoxy-phenyl)-methyl-amine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(2-methoxy-phenyl)-amine and methyl iodide by a procedure similar to example 36 (72% yield). 1H NMR (CDCl3): 7.72 (d, J=8.1 Hz, 1H), 7.54 (ddd, J=8.4, 6.6 and 1.5 Hz, 1H), 7.20 (dd, J=8.4 and 1.8 Hz, 1H), 6.87-7.04 (m, 4H), 3.67 (s, 3H), 3.56 (s, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(2-methoxy-phenyl)-amine | ClC1=NC2=CC=CC=C2C(=N1)NC1=C(C=CC=C1)OC | C15H12ClN3O
reactant | methyl iodide | CI | CH3I
product | (2-Chloro-quinazolin-4-yl)-(2-methoxy-phenyl)-methyl-amine | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=C(C=CC=C1)OC | C16H14ClN3O
